US05576343
3-(5-Amidino-2-benzofuranyl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionic Acid Dihydrochloride
3.2 g of ethyl 3-(5-amidino-2-benzofuranyl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionate dihydrochloride was dissolved in 80 ml of 2N hydrochloric acid, and the solution was refluxed under heating for 30 minutes. After cooling and distilling off the solvent, the resulting residue was purified by subjecting it to column chromatography using a column packed with a highly porous polymer type synthetic adsorbent (styrene-divinylbenzene polymer: Diaion HP-20) and using 5-10% acetonitrile as an elution solvent. Thereafter, the thus eluted fractions of interest were pooled, adjusted to pH 2-3 with dilute hydrochloric acid, and then concentrated to dryness. In this way, 1.25 g of the title compound was obtained in a solid form.

reactant | ethyl 3-(5-amidino-2-benzofuranyl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionate dihydrochloride | 3.2 g | Cl.Cl.C(N)(=N)C=1C=CC2=C(C=C(O2)CC(C(=O)OCC)C2=CC=C(C=C2)O[C@@H]2CNCC2)C1
solvent | hydrochloric acid | 2N, 80 ml | Cl | ClH
product | 3-(5-Amidino-2-benzofuranyl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionic Acid Dihydrochloride | 1.25 g | Cl.Cl.C(N)(=N)C=1C=CC2=C(C=C(O2)CC(C(=O)O)C2=CC=C(C=C2)O[C@@H]2CNCC2)C1 | InChI=1S/C22H23N3O4.2ClH/c23-21(24)14-3-6-20-15(9-14)10-18(29-20)11-19(22(26)27)13-1-4-16(5-2-13)28-17-7-8-25-12-17;;/h1-6,9-10,17,19,25H,7-8,11-12H2,(H3,23,24)(H,26,27);2*1H/t17-,19?;;/m0../s1
